US07001904B1
Using an analogous procedure to that described in the second last paragraph of the portion of Example 1 that is concerned with the preparation of starting materials, 4-(2-bromo-4-fluorophenoxy)-7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-6-methoxyquinazoline was reacted with ammonia to give 4-amino-7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-6-methoxyquinazoline; NMR Spectrum: (DMSOd6) 1.21 (m, 2H), 1.4 (s, 9H), 1.76 (d, 2H), 2.0 (br s, 1H), 2.77 (t, 2H), 3.88 (s, 3H), 3.97 (d, 2H), 3.99 (br s, 2H), 7.05 (s, 1H), 7.36 (br s, 2H), 7.55 (s, 1H), 8.24 (s, 1H); Mass Spectrum: M+H+ 389.

reactant | 4-(2-bromo-4-fluorophenoxy)-7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-6-methoxyquinazoline | BrC1=C(OC2=NC=NC3=CC(=C(C=C23)OC)OCC2CCN(CC2)C(=O)OC(C)(C)C)C=CC(=C1)F | C26H29BrFN3O5
reactant | ammonia | N | H3N
product | 4-amino-7-(N-tert-butoxycarbonylpiperidin-4-ylmethoxy)-6-methoxyquinazoline | NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C(=O)OC(C)(C)C | C20H28N4O4
